US08198279B2
1-(2-fluoro-5-(trifluoromethyl)phenyl)-3-(3-(2-oxo-1,2-dihydropyrido[2,3-b]pyrazin-8-yloxy)phenyl)urea (AA-032)
Method F2 was used with 8-(3-aminophenoxy)pyrido[2,3-b]pyrazin-2(1H)-one and 1-fluoro-2-isocyanato-4-(trifluoromethyl)benzene to afford the title compound as a white solid (49 mg, 73%).

reactant | 8-(3-aminophenoxy)pyrido[2,3-b]pyrazin-2(1H)-one | NC=1C=C(OC2=CC=NC=3N=CC(NC32)=O)C=CC1 | C13H10N4O2
reactant | 1-fluoro-2-isocyanato-4-(trifluoromethyl)benzene | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
product | 1-(2-fluoro-5-(trifluoromethyl)phenyl)-3-(3-(2-oxo-1,2-dihydropyrido[2,3-b]pyrazin-8-yloxy)phenyl)urea | 49 mg, 73% | FC1=C(C=C(C=C1)C(F)(F)F)NC(=O)NC1=CC(=CC=C1)OC1=CC=NC=2N=CC(NC21)=O | C21H13F4N5O3
